US04144235
3-Chlorothieno[3,4-b][1,5]benzoxazepin-10(9H)-one
A 4.0 g. portion of the above product is reacted with 4.0 g. of phosphorus pentachloride in 103 ml. of dry toluene as described in Example 1, giving 3,10-dichloro-thieno[3,4-b][1,5]benzoxazepine which is further reacted with 25 ml. of N-hydroxyethylpiperazine and 25 ml. of dry toluene giving the base compound as a foam which is converted to 4-(3-chlorothieno[3,4-b][1,5]benzoxazepin-10-yl)-1-piperazine-ethanol fumarate, m.p. 144°-145° C.

reactant | N-hydroxyethylpiperazine | OCCN1CCNCC1 | C6H14N2O
reactant | 4-(3-chlorothieno[3,4-b][1,5]benzoxazepin-10-yl)-1-piperazine-ethanol fumarate | C(\C=C\C(=O)O)(=O)O.ClC=1SC=C2C1OC1=C(N=C2N2CCN(CC2)CCO)C=CC=C1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Chlorothieno[3,4-b][1,5]benzoxazepin-10(9H)-one | ClC=1SC=C2C1OC1=C(NC2=O)C=CC=C1 | C11H6ClNO2S
